US04584290
To a solution of benzhydryl 7-formamido-3-(2,2-dibromovinyl)-3-cephem-4-carboxylate-1-oxide (1.8 g) was added n-butyl lithium (7.27 ml of 1.65M solution in hexane) at -65° to -60° C. under a nitrogen atmosphere. After the resultant mixture was stirred at the same temperature for 30 minutes, ethyl acetate (50 ml) was added to the reaction mixture. The reaction mixture was warmed to -20° C., and hydrolysed with 10% hydrochloric acid. The organic layer was separated and washed with water and brine, dried over magnesium sulfate. The solution was evaporated in vacuo to give benzhydryl 7-formamido-3-ethynyl-3-cephem-4-carboxylate-1-oxide (1.30 g).

reactant | benzhydryl 7-formamido-3-(2,2-dibromovinyl)-3-cephem-4-carboxylate-1-oxide | 1.8 g | C(=O)NC1[C@@H]2N(C(=C(CS2=O)C=C(Br)Br)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O | C23H18Br2N2O5S
reactant | n-butyl lithium | 1.65M, 7.27 ml | C(CCC)[Li]
reactant | hydrochloric acid | Cl | ClH
solvent | ethyl acetate | 50 ml | C(C)(=O)OCC | C4H8O2
product | benzhydryl 7-formamido-3-ethynyl-3-cephem-4-carboxylate-1-oxide | 1.30 g | C(=O)NC1[C@@H]2N(C(=C(CS2=O)C#C)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O | C23H18N2O5S
